US04465508
(a) Preparation of 2-amino-6-chloro-4-trifluoromethylphenol
Solid sodium dithionite (10 g) was added in portions to a stirred solution of 2-chloro-6-nitro-4-trifluoromethylphenol (4.5 g) in a mixture of ethanol (20 ml) and water (30 ml). The solution was stirred for 2 hours, left overnight, filtered, and evaporated. The residue was mixed with toluene and the toluene removed under reduced pressure. The residue was extracted with boiling chloroform (3×100 ml) and the chloroform extracts evaporated to give a yellow oil identified as the required substituted phenol.

reactant | sodium dithionite | 10 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-chloro-6-nitro-4-trifluoromethylphenol | 4.5 g | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])O | C7H3ClF3NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-amino-6-chloro-4-trifluoromethylphenol | NC1=C(C(=CC(=C1)C(F)(F)F)Cl)O | C7H5ClF3NO
